US04661502
3-Dimethylcarbamoyloxypyridine (1.66 g) and chloromethylpivalate (2.26 g) were heated to 90° C. with stirring for 2 hrs. The reaction mixture was cooled to room temperature. To this solution was added anhydrous diethylether to crystallize. The crystals were filtered off, washed three times with anhydrous diethyl ether (50 ml×3) and dried under reduced pressure. Recrystallization from acetone-ether (1:2) gave 2.76 g of 3-(dimethylcarbamoyloxy)-1-(pivalyloxymethyl)pyridinium chloride as colorless powdery crystals, m.p. 154°-155° C.

reactant | 3-Dimethylcarbamoyloxypyridine | 1.66 g | CN(C(=O)OC=1C=NC=CC1)C | C8H10N2O2
reactant | chloromethylpivalate | 2.26 g | ClCCC(C(=O)[O-])(C)C
reactant | diethylether | C(C)OCC | C4H10O
product | 3-(dimethylcarbamoyloxy)-1-(pivalyloxymethyl)pyridinium chloride | 2.76 g | [Cl-].CN(C(=O)OC=1C=[N+](C=CC1)COC(C(C)(C)C)=O)C | InChI=1S/C14H21N2O4.ClH/c1-14(2,3)12(17)19-10-16-8-6-7-11(9-16)20-13(18)15(4)5;/h6-9H,10H2,1-5H3;1H/q+1;/p-1
